US07947727B2
N-Propyl-N-(3,3,3-trifluoro-2-hydroxy-2-{[(6-methyl-1-phenyl-1H-indazol-4-yl)amino]methyl}propyl)benzamide
Prepared similarly to Example 11 from benzoic acid and 1,1,1-trifluoro-3-[(6-methyl-1-phenyl-1H-indazol-4-yl)amino]-2-[(propylamino)methyl]-2-propanol.

reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1,1,1-trifluoro-3-[(6-methyl-1-phenyl-1H-indazol-4-yl)amino]-2-[(propylamino)methyl]-2-propanol | FC(C(CNC1=C2C=NN(C2=CC(=C1)C)C1=CC=CC=C1)(O)CNCCC)(F)F | C21H25F3N4O
product | N-Propyl-N-(3,3,3-trifluoro-2-hydroxy-2-{[(6-methyl-1-phenyl-1H-indazol-4-yl)amino]methyl}propyl)benzamide | C(CC)N(C(C1=CC=CC=C1)=O)CC(C(F)(F)F)(CNC1=C2C=NN(C2=CC(=C1)C)C1=CC=CC=C1)O | C28H29F3N4O2
